2105-01-29 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2105-1-28**] 09:29 PM
 ARTERIAL LINE - START [**2105-1-29**] 12:59 AM
   easily weaned off levophed
   SUBJ:
   mildly sedated but follows simple commands and denies pain or
   discomfort
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2105-1-29**] 01:33 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-29**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 72 (66 - 83) bpm
   BP: 133/52(75) {127/51(72) - 147/55(82)} mmHg
   RR: 19 (13 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    338 mL
                                                                  1,938 mL
   PO:
             TF:
   IVF:
                                                                    338 mL
                                                                  1,938 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                    775 mL
   Urine:
                                                                    380 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -42 mL
                                                                  1,163 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 911 (911 - 911) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.38/36/202/23/-2
   Ve: 9.6 L/min
   PaO2 / FiO2: 337
   Physical Examination
   General Appearance: jaundiced and ill appearing
   Eyes / Conjunctiva: PERRL, icteric sclerae
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: b/l bases, Rhonchorous: inspiratory rhonchi b/l anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   399 K/uL
   9.5 g/dL
   65 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.8 mEq/L
   30 mg/dL
   97 mEq/L
   125 mEq/L
   29.0 %
   8.1 K/uL
        [image002.jpg] NOTE: LABS OUTDATED
                             [**2105-1-28**]  09:18 PM
                             [**2105-1-29**]  01:52 AM
                             [**2105-1-29**]  05:55 AM
                             [**2105-1-29**]  06:25 AM
                             [**2105-1-29**]  06:36 AM
   WBC
   9.9
   8.1
   Hct
   28.5
   29.0
   Plt
   372
   399
   Cr
   0.9
   TCO2
   22
   23
   22
   Glucose
   65
   Other labs: PT / PTT / INR:18.3/34.3/1.7, CK / CKMB /
   Troponin-T:118/3/, ALT / AST:155/338, Alk Phos / T Bili:562/20.1,
   Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:1045 IU/L, Ca++:6.5
   mg/dL, Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Imaging: [**1-29**] CXR PND
   [**1-28**]
   IMPRESSION:  Endotracheal tube and nasogastric tube in satisfactory
   positions.
   Likely small bilateral pleural effusions.
   Microbiology: [**1-29**] Urine Cx PND
   [**1-29**] Blood Cx PND
   Assessment and Plan
   83M with multiple metastatic primary cancers who p/w mental status
   changes, found to be hypoglycemic, intubated in ED for increased work
   of breathing.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 intubated for
increased
   WOB
 in ED. No ABG performed so unable to assess if pt was actually
   ever hypoxic. I suspected this was all related to hypoglycemia
   -          ddx for presumed hypoxia would include PE, PNA, PTX, CNS
   depression, cardiac ischemia, all ruled out as follows:
   -          serum tox negative (Utox positive for BZD, but likely from
   ER sedation)
   -          CT head was negative for acute process
   -          no e/o acute cardiac ischemia on repeat EKG this AM,
   trending 3^rd set of enzymes (2 negative), previous Q waves in V2
   resolved and appear to be related to lead placement
   -          no PTX seen on CXR
   -          afebrile and without clinical hx of PNA but will cover for
   now with vanc/levo/flagyl (flagly in case abdominal source)
   -          send sputum for culture
   -          if no positive cx by Saturday would d/c all antibiotics
   -          ABGs look excellent
   -          decrease FiO2, change to PSV, obtain RSBI, wean sedation, do
   SBT
   -          would extubate today if RSBI and SBT acceptable
 HYPOTENSION
 Resolved. Seems to have been transient and fluid
   responsive, so not true shock
   -          could have been contribution from peri-intubation sedation
   vs. depressed CNS function from hypoglycemia
   -          of note, arterial pressures noted to be 20 points higher
   than cuff pressures
   -          if early sepsis, covering with vanc/levo/flagyl as above for
   pulmonary and bowel source coverage
   -          would d/c antibiotics as above if no culture growth
   -          added on cortisol to pre-solumedrol labs from ED but doubt
   relative adrenal insufficiency
   -          maintain glucose control but caution as pt p/w hypoglycemia
   -          Easily weaned off  of levophed
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
   -          seen by Drs. [**Last Name (STitle) 1055**] and [**Name5 (PTitle) 123**] as [**Last Name (LF) 267**], [**First Name3 (LF) 178**] contact today
 DIABETES [**Name (NI) 1060**] (DM), TYPE II
   -          not on home insulin, but presented to ED with FSG in 20
   -          could be due to inappropriate home use of oral hypoglycemic
   vs. liver synthetic dysfunction.
   -          Investigate further after extubation and arrival of family
   -          FSG q4h given hypoglycemia
   -          Cover with  non-aggressive RISS
 PORTAL VEIN THROMBOSIS
   -          Previous decision not to anticoagulate in setting of
   extensive metastatic disease, will discuss with Dr. [**Last Name (STitle) 123**], and
   potentially with hepatology
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 chronically low, improved
   to 131 this AM
   -          hypervolemic hyponatremia
   -          unable to aggressively fluid restrict or give lasix or other
   diuretics given tenuous status
   -          low Na diet when eating
   -          [**Hospital1 **] lytes
 HYPOTHYROIDISM
   -          continue levothyroxine
   -          no need to check TFTs in ICU setting
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB) - per [**Hospital1 267**] onc
   record, pt was due to have colonoscopy today. Known guaiac positive
   from last admission.
   -          PPI daily
   -          [**Hospital1 **] HCT
   -          d/w onc further indications for colonoscopy
 Coagulopathy
   -          INR elevated, likely [**1-10**] liver disease and malnutrition
   -          Would keep 1.5-2.0
   -          Consider vitamin K if >2.0
   ICU Care
   Nutrition:
   Comments: NPO for now pending extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2105-1-28**] 09:29 PM
   16 Gauge - [**2105-1-28**] 09:31 PM
   Arterial Line - [**2105-1-29**] 12:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:  attempted to contact family at 4 phone
   numbers last night, no one accompanied pt to ICU. This AM contact[**Name (NI) **]
   [**Name (NI) 1061**], [**First Name3 (LF) **], [**0-0-**], [**Telephone/Fax (1) 1062**] (w). No apparent HCP.
    [**Name (NI) 66**] status: Full code
   Disposition: ICU

2105-01-29 09:38:00 Physician Attending Progress Note
Chief Complaint: respiratory failure and shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2105-1-28**] 08:00 PM
 MULTI LUMEN - START [**2105-1-28**] 09:29 PM
 ARTERIAL LINE - START [**2105-1-29**] 12:59 AM
   Vasopressors weaned to off.
   History obtained from Medical records
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2105-1-29**] 07:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-1-29**] 07:44 AM
   Other medications:
   vanco, levoflox, SQH, PPI, other per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-29**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 72 (66 - 83) bpm
   BP: 119/50(68) {119/50(68) - 147/58(85)} mmHg
   RR: 16 (13 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    338 mL
                                                                  2,078 mL
   PO:
             TF:
   IVF:
                                                                    338 mL
                                                                  2,078 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                    900 mL
   Urine:
                                                                    380 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -42 mL
                                                                  1,178 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 911 (911 - 911) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 40
   RSBI Deferred: FiO2 > 60%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.38/36/202/20/-2
   Ve: 9.6 L/min
   PaO2 / FiO2: 505
   Physical Examination
   Eyes / Conjunctiva: sclerae icteric
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   399 K/uL
   63 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.0 mEq/L
   27 mg/dL
   100 mEq/L
   131 mEq/L
   29.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2105-1-28**]  09:18 PM
                             [**2105-1-29**]  01:52 AM
                             [**2105-1-29**]  05:55 AM
                             [**2105-1-29**]  06:25 AM
                             [**2105-1-29**]  06:36 AM
   WBC
   9.9
   8.1
   Hct
   28.5
   29.0
   Plt
   372
   399
   Cr
   0.9
   0.9
   TCO2
   22
   23
   22
   Glucose
   65
   63
   Other labs: PT / PTT / INR:18.0/31.0/1.6, CK / CKMB /
   Troponin-T:108/3/, ALT / AST:163/350, Alk Phos / T Bili:648/19.9,
   Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:896 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR:
   Massive gastric dilatation
   Bibasilar atelectasis
   ETT OK
   CT abd:
   1.  Overall no significant interval change from [**2105-1-13**] with
   slight
   improvement in nonspecific jejunal wall thickening.
   2.  Multiple hepatic masses in a cirrhotic liver with thrombosis of the
   left
   portal vein and partial thrombosis of the right posterior portal vein.
   Small
   ascites.
   3.  Bibasilar atelectasis.
   Assessment and Plan
   83-year-old man with metastatic adenocarcinoma of unclear and possibly
   multiple primaries, now with respiratory failure of uncertain
   etiology.  History is quite limited at present.
 ALTERED MENTAL STATUS
   Likely related to hypoglycemia.  Mental status appears good this
   morning off sedation.  Will investigate further if not clear once
   extubated.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Appears to be doing well on 5/0/0.4 now.
   Now awake and following simple commands
   Trial of spontaneous breathing and potential extubation trial today.
 SHOCK --> HYPOTENSION
   Vasodilatory reaction after sedation used with intubation seems most
   likely, although PE and sepsis are possible.  His improvement suggests
   that the process was transient, arguing for the former.  We will
   continue antibiotics until cultures negative x 72 hours.
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
   No acute intervention.  Discuss with Dr. [**Last Name (STitle) **].
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   Improving
 HYPOGLYCEMIA
   Resolved.  [**Month (only) 60**] be related to a report of starting an oral hypoglycemic,
   although we have been unable to corroborate.
 PORTAL VEIN THROMBOSIS
   Will discuss with Dr. [**Last Name (STitle) 123**], and potentially with hepatology
 DIABETES MELLITUS (DM), TYPE II
   -FSBS and insulin sliding scale
 MINIMAL HISTORY
   If we extubate him successfully, will obtain additional history from
   him.  If not, we will consult social work for help locating his family.
 GI BLEED and ?MELENA
   Follow clinically and with Hct for now.  Eventually to see GI (planned
   as outpatient).
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2105-1-28**] 09:29 PM
   16 Gauge - [**2105-1-28**] 09:31 PM
   Arterial Line - [**2105-1-29**] 12:59 AM
   Femoral line needs to come out today.  Get peripheral access and d/c.
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: To be clarified
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2105-01-30 08:05:00 Physician Resident Progress Note
Chief Complaint: Mental status change/Hypoglycemia/Hypotension
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2105-1-29**] 01:45 PM
 MULTI LUMEN - STOP [**2105-1-29**] 05:48 PM
 ARTERIAL LINE - STOP [**2105-1-30**] 04:15 AM
   Extubated
   Clarified that he was taking prandin 1mg TID at home
   Did not start diet b/c concerned of aspiration risk
   Seen by Onc--rec colonoscopy when clinically stable, discussed poor
   prognosis with family
   Subjective:
   No pain, feeling better
   Didn't sleep last night
   Became acutely hypertensive and dyspneic while rounding with team.
   Crackles on lung exam.  JVP elevated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2105-1-29**] 11:00 AM
   Vancomycin - [**2105-1-29**] 08:30 PM
   Metronidazole - [**2105-1-30**] 12:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2105-1-30**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-30**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 79 (66 - 95) bpm
   BP: 111/49(63) {111/49(63) - 147/65(85)} mmHg
   RR: 22 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,651 mL
                                                                    229 mL
   PO:
             TF:
   IVF:
                                                                  2,626 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                    535 mL
   Urine:
                                                                  2,060 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    591 mL
                                                                   -306 mL
   Respiratory support
   SpO2: 97%
   ABG: 7.38/36/91/20/-2
   PaO2 / FiO2: 228
   Physical Examination
   Awake, pleasant, oriented.
   Markedly jaundiced with scleral icterus.  Clear tearing from eyes.
   MMM
   S1, S2, RRR, no murmur
   Lungs: exhaling with abdominal muscles, lungs with good air movement
   b/l, some crackles at bases
   Abd soft, NT, no palpable mass.
   Ext warm with good distal pulses
   Labs / Radiology
   464 K/uL
   9.8 g/dL
   52 mg/dL
   0.6 mg/dL
   20 mEq/L
   5.4 mEq/L
   32 mg/dL
   102 mEq/L
   131 mEq/L
   28.8 %
   9.1 K/uL
        [image002.jpg]
                             [**2105-1-28**]  09:18 PM
                             [**2105-1-29**]  01:52 AM
                             [**2105-1-29**]  05:55 AM
                             [**2105-1-29**]  06:25 AM
                             [**2105-1-29**]  06:36 AM
                             [**2105-1-29**]  10:20 AM
                             [**2105-1-29**]  05:25 PM
                             [**2105-1-29**]  05:48 PM
                             [**2105-1-30**]  04:41 AM
   WBC
   9.9
   8.1
   10.0
   9.1
   Hct
   28.5
   29.0
   29.3
   28.8
   Plt
   372
   399
   443
   464
   Cr
   0.9
   0.9
   1.0
   0.6
   TropT
   <0.01
   TCO2
   22
   23
   22
   23
   22
   Glucose
   65
   63
   59
   52
   Other labs: PT / PTT / INR:19.5/31.5/1.8, CK / CKMB /
   Troponin-T:108/4/<0.01, ALT / AST:227/556, Alk Phos / T Bili:799/19.6,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:896 IU/L, Ca++:7.5
   mg/dL, Mg++:2.8 mg/dL, PO4:4.1 mg/dL
   Sputum [**1-29**] 2+ GNRs
   Ucx and BCx pending
   CXR [**1-30**] c/w pulmonary edema
   Assessment and Plan
   83yo gentleman with presumed hepatocellular carcinoma with possible
   second malignancy admitted for mental status change in setting of
   hypoglycemia complicated by episodes of respiratory distress.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Clinically in pulmonary edema this morning.  Other contributing factors
   to poor respiratory status include known L hemidiaphragm paralysis.
   Unclear why he is going into pulmonary edema.  EKG and cardiac enzymes
   have been negative.
   -          treat acutely with nitro paste, lasix, oxygen; would add
   morphine if needed
   -          follow respiratory status closely during day
   -          f/u final CXR read (my read, no pneumothorax)
   -          note that episode occurred after getting levofloxacin this
   morning; monitor for correlation with levofloxacin dosing
   -          patient is s/p extubation [**1-29**] and is currently full code
 HYPOGLYCEMIA / DIABETES
   Patient was on secretogogue at home in setting of impaired hepatic
   clearance as well as possibly compromised hepatic gluconeogenesis
   secondary to metastatic disease.  He has become hypoglycemic during
   admission despite not getting any insulin.
   -          discontinue SSI and monitor glucose Q2H
   -          appreciate [**Last Name (un) 276**] input about short and long term management
   options
 HYPOTENSION (NOT SHOCK)
   -          in setting of intubation in the ED; note that patients with
   liver disease can have marked and prolonged hypotension after receiving
   sedating medications
   -          given difficulties obtaining clear medical history from
   patient and family, will continue broad spectrum antibiotics
   (vanc/levo/flagyl) until Saturday to cover possible pulmonary or bowel
   source; if cultures negative Sat, will stop antibiotics
   -          currently hypertensive
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
   Most likely has HCC, but atypical histology suggestive of possible
   metastatic colorectal cancer.
   -          appreciate oncology recs
   -          will defer colonoscopy until more stable
   -          family and patient aware that he is not candidate for
   chemotherapy at this time because of poor performance status
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   Patient most likely has appropriately increased ADH in setting of
   cirrhosis.
   -          monitor [**Hospital1 **] lytes
   -          fluid restrict to 1500ml free water
   -          could diurese if hyponatremia worsens
 HYPOTHYROIDISM
   -          note that this is new diagnosis from early [**Month (only) 1088**]; hence
   no utility to checking TFTs until 6 weeks after initiation of therapy
   -          continue levothyroxine
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   -          noted to have guaiac positive stool in ED
   -          no BMs in last 24 hours, Hct has been stable
   -          monitor
   # Coagulopathy
   -          secondary to liver metastases
   -          would give vitamin K for INR > 2
   # Portal Vein Thrombosis:
   Chronic, monitor.
   ICU Care
   Nutrition: NPO; speech and swallow eval
   Glycemic Control:  hold insulin in setting of hypoglycemia
   Lines:
   16 Gauge - [**2105-1-28**] 09:31 PM
   18 Gauge - [**2105-1-28**] 11:00 PM
   Prophylaxis:
   DVT: heparin subQ
   Stress ulcer: PPI
   Communication:  Comments: family
s contact information in H&P
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Critical Care Staff Addendum
   Mr. [**Known lastname 1094**] was seen and examined with the ICU team; Dr. [**Last Name (STitle) 512**]
   note reflects my input.  I would add/emphasize that Mr. [**Known lastname 1094**] was
   extubated yesterday and that he met with oncology to discuss tumor and
   prognosis; he reamins full code at present.  This morning, he reportes
   no pain, but did sleep poorly overnight.  In addition, he had
   borderline hypoglycemia this morning.  Finally, he had an episode of
   acute dyspnea this morning that appeared to be acute pulmonary edema.
   It occurred in the setting of a fluid load (with IV metronidazole), and
   responded to diuresis.  We will continue diuresis and add beta blockade
   for diatolic CHF today; we will also ask endocrine to see him given
   persistent hypoglycemia: could this be an insulin-secreting tumor?  His
   presenting issues (altered mental status leading to intubation and
   hypotension) have resolved and appear to have been related to acute
   hypoglycemia.  Other issues as per Dr. [**Last Name (STitle) 512**]
s note.
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2105-1-30**] 18:16 ------

2105-01-30 10:12:00 Physician Attending Progress Note
Chief Complaint: altered mental status, respiratory failure (resolved)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2105-1-29**] 01:45 PM
 MULTI LUMEN - STOP [**2105-1-29**] 05:48 PM
 ARTERIAL LINE - STOP [**2105-1-30**] 04:15 AM
   Extubated yesterday.
   Patient met with oncology to discuss tumor and prognosis.  Full code at
   present.
   No pain today; reports poor sleep overnight.
   Borderline hypoglycemia this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-29**] 08:30 PM
   Metronidazole - [**2105-1-30**] 08:00 AM
   Levofloxacin - [**2105-1-30**] 08:14 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2105-1-30**] 06:00 AM
   Pantoprazole (Protonix) - [**2105-1-30**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2105-1-30**] 08:15 AM
   Other medications:
   Flagyl, levoflox, synthroid, PPI, SQH, SQI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-30**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 81 (66 - 89) bpm
   BP: 118/53(68) {111/47(63) - 147/65(85)} mmHg
   RR: 22 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,651 mL
                                                                    507 mL
   PO:
             TF:
   IVF:
                                                                  2,626 mL
                                                                    457 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                    655 mL
   Urine:
                                                                  2,060 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    591 mL
                                                                   -148 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.38/36/91/20/-2
   PaO2 / FiO2: 228
   Physical Examination
   Eyes / Conjunctiva: PERRL, icteric sclerae
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Abdominal: Soft, Non-tender, abdominal breathing
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.8 g/dL
   464 K/uL
   52 mg/dL
   0.6 mg/dL
   20 mEq/L
   5.4 mEq/L
   32 mg/dL
   102 mEq/L
   131 mEq/L
   28.8 %
   9.1 K/uL
        [image002.jpg]
                             [**2105-1-28**]  09:18 PM
                             [**2105-1-29**]  01:52 AM
                             [**2105-1-29**]  05:55 AM
                             [**2105-1-29**]  06:25 AM
                             [**2105-1-29**]  06:36 AM
                             [**2105-1-29**]  10:20 AM
                             [**2105-1-29**]  05:25 PM
                             [**2105-1-29**]  05:48 PM
                             [**2105-1-30**]  04:41 AM
   WBC
   9.9
   8.1
   10.0
   9.1
   Hct
   28.5
   29.0
   29.3
   28.8
   Plt
   372
   399
   443
   464
   Cr
   0.9
   0.9
   1.0
   0.6
   TropT
   <0.01
   TCO2
   22
   23
   22
   23
   22
   Glucose
   65
   63
   59
   52
   Other labs: PT / PTT / INR:19.5/31.5/1.8, CK / CKMB /
   Troponin-T:108/4/<0.01, ALT / AST:227/556, Alk Phos / T Bili:799/19.6,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:896 IU/L, Ca++:7.5
   mg/dL, Mg++:2.8 mg/dL, PO4:4.1 mg/dL
   Imaging: No CXR today
   Assessment and Plan
   83 year old man admitted intubated and hypotense after presenting with
   altered mental status.  This was presumably all due to hypoglycemia.
 HYPOGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOTHYROIDISM
 DIABETES MELLITUS (DM), TYPE II
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2105-1-28**] 09:31 PM
   18 Gauge - [**2105-1-28**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2105-01-31 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2105-1-30**] 09:45 AM
 EKG - At [**2105-1-31**] 12:10 AM
   Acutely dyspneic twice yesterday in setting of HTN (as high as 200's),
   rales, and JVD - improved with lasix,nitro paste, and morphine
   Seen by speech and swallow, passed eval
   SUBJ:
   No complaints this AM
   Complained of CP after rounds, EKG fine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-29**] 08:30 PM
   Levofloxacin - [**2105-1-30**] 08:14 AM
   Metronidazole - [**2105-1-30**] 04:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-1-30**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2105-1-31**] 12:00 AM
   Furosemide (Lasix) - [**2105-1-31**] 12:25 AM
   Morphine Sulfate - [**2105-1-31**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-31**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 90 (78 - 123) bpm
   BP: 102/51(63) {85/40(53) - 204/157(161)} mmHg
   RR: 18 (14 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.1 kg (admission): 83.6 kg
   Height: 65 Inch
                  Total In:
                                                                  1,296 mL
                  PO:
                                                                    580 mL
                  TF:
   IVF:
                                                                    666 mL
   Blood products:
   Total out:
                                                                  3,095 mL
                                                                    760 mL
   Urine:
                                                                  3,095 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,800 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97% 6L NC
   ABG: ///21/
   Physical Examination
   General Appearance: chronically ill appearing, jaundiced
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), RRR,
   2/6 SEM at LUSB
   Respiratory: clear anteriorly, with diminished sounds at b/l bases and
   fine crackles [**12-11**] way up
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   421 K/uL
   9.6 g/dL
   113 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.3 mEq/L
   42 mg/dL
   99 mEq/L
   130 mEq/L
   28.6 %
   10.3 K/uL
        [image002.jpg]
                             [**2105-1-29**]  01:52 AM
                             [**2105-1-29**]  05:55 AM
                             [**2105-1-29**]  06:25 AM
                             [**2105-1-29**]  06:36 AM
                             [**2105-1-29**]  10:20 AM
                             [**2105-1-29**]  05:25 PM
                             [**2105-1-29**]  05:48 PM
                             [**2105-1-30**]  04:41 AM
                             [**2105-1-30**]  04:52 PM
                             [**2105-1-31**]  03:03 AM
   WBC
   8.1
   10.0
   9.1
   10.3
   Hct
   29.0
   29.3
   28.8
   28.6
   Plt
   399
   443
   464
   421
   Cr
   0.9
   1.0
   0.6
   0.9
   1.2
   TropT
   <0.01
   TCO2
   22
   23
   22
   23
   22
   Glucose
   63
   59
   52
   131
   113
   Other labs: PT / PTT / INR:22.1/33.4/2.1, CK / CKMB /
   Troponin-T:108/4/<0.01, ALT / AST:275/631, Alk Phos / T Bili:944/22.6,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:896 IU/L, Ca++:7.7
   mg/dL, Mg++:2.8 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR [**1-30**]
   CHEST, ONE VIEW:  Comparison with [**2105-1-29**].  The patient has been
   extubated. There are low lung volumes with bilateral lower lobe
   atelectasis and probable right small pleural effusion.  There is a
   large amount of air in the stomach. Cardiac contour is difficult to
   assess due to low lung volumes; however, the mediastinal and hilar
   contours appear approximately similar.  There is no evidence of
   pulmonary edema.  Osseous structures appear unchanged.
   IMPRESSION:  Very low lung volumes with associated atelectasis and
   small right pleural effusion.
   Microbiology: [**1-28**] BCx: PND
   [**1-29**] UCx: Negative
   [**1-30**] Sputum:
   gram stain: 2+ GNRs
   RESPIRATORY CULTURE (Preliminary):    SPARSE GROWTH OROPHARYNGEAL
   FLORA.
   Assessment and Plan
   83yo gentleman with presumed hepatocellular carcinoma with possible
   second malignancy admitted for mental status change in setting of
   hypoglycemia, ICU course complicated by episodes of proabable flash
   pulmonary edema.
 Pulmonary Edema
 recurred overnight with precipitant likely
   uncontrolled HTN . EKG and cardiac enzymes have been negative.
   -          Improve control of SBP to <140, consider re-instituting
   short acting ACE vs. beta blocker
   -          treat any episodes acutely with nitro paste, lasix, oxygen;
   morphine
 HYPOGLYCEMIA / DIABETES
   Patient was on secretogogue at home in setting of impaired hepatic
   clearance as well as possibly compromised hepatic gluconeogenesis
   secondary to metastatic disease.  He has become hypoglycemic during
   admission despite not getting any insulin, however has also become
   hyperglycemic without insulin
   -          regular ISS, monitor glucose Q4H, give D50 prn
   -          f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] recs
 HYPERTENSION -
   -          was as high as 200
s last night, precipitating decreased LV
   compliance and pulmonary edema
   -          will give 5mg IV metoprolol this AM, consider longer lasting
   coverage with po metoprolol
 ARF
 Cr bumped to 1.2 today, was 0.6 on admission
   -          ddx includes prerenal failure due to ineffective
   intravascular volume but this is less likely given episodes of
   pulmonary edema reflecting intravascularly replete state
   -          more likely related to ATN from prei-intubation hypotension
   -          will send urine lytes to calculate FeUrea as pt has been
   receiving lasix
   -          trend Cr
   -          avoid nephrotoxins so will avoid ACE-I
s for BP control
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
   Most likely has HCC, but atypical histology suggestive of possible
   metastatic colorectal cancer.
   -          appreciate oncology recs
   -          deferring colonoscopy until more stable
   -          ? if family and patient aware that he is not candidate for
   chemotherapy at this time because of poor performance status, will try
   to readdress today
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   Stable. Patient most likely has appropriately increased ADH in setting
   of cirrhosis.
   -          monitor [**Hospital1 **] lytes
   -          fluid restrict to 1500ml free water
   -          could diurese if hyponatremia worsens
 HYPOTHYROIDISM
   -          note that this is new diagnosis from early [**Month (only) 1088**]; hence
   no utility to checking TFTs until 6 weeks after initiation of therapy
   -          continue levothyroxine
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   -          noted to have guaiac positive stool in ED
   -          no BMs in last 24 hours, Hct has been stable
   -          monitor HCT daily unless clinically bleeding
   # Coagulopathy
 worsening today
   -          likely secondary to liver metastases and poor synthetic
   function, but could be a nutritional component
   -          give vitamin K again today as INR rising, now > 2, will give
   3 day course (last day [**2-1**])
   -          no evidence for DIC, platelets stable, pt not septic
   -          trend daily
   # Portal Vein Thrombosis
   -          Chronic, monitor
   ICU Care
   Nutrition:
   Comments: diabetic diet with S/S modifications
   Fluid restriction 1500cc
   Glycemic Control:  will write for ISS today, caution as pt clearly
   sensitive to insulin and with hepatic gluconeogenesis dysfxn
   Lines:
   16 Gauge - [**2105-1-28**] 09:31 PM
   18 Gauge - [**2105-1-28**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
 plan for family meeting with oncology to
   address this
   Disposition: monitor in ICU

2105-01-31 10:35:00 Physician Attending Progress Note
Chief Complaint: 83 yr male with recent dx of hepatic neoplasm admit
   with change in mental status with hypoglycemia. intubated in ED ?
   sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Dyspneic twice yesterday (has been extubated). BP to 200's, crackles,
   JVD - treated for CHF and symptoms resolved. R/o'd for MI
   Now feeling well
   24 Hour Events:
 EKG - At [**2105-1-30**] 09:45 AM
 EKG - At [**2105-1-31**] 12:10 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-29**] 08:30 PM
   Levofloxacin - [**2105-1-30**] 08:14 AM
   Metronidazole - [**2105-1-30**] 04:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2105-1-31**] 12:25 AM
   Morphine Sulfate - [**2105-1-31**] 12:35 AM
   Heparin Sodium (Prophylaxis) - [**2105-1-31**] 08:51 AM
   Other medications:
   synthroid, pantoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-1-31**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 87 (80 - 123) bpm
   BP: 101/45(58) {85/40(53) - 204/157(161)} mmHg
   RR: 17 (14 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.1 kg (admission): 83.6 kg
   Height: 65 Inch
                  Total In:
                                                                  1,296 mL
                                                                    400 mL
   PO:
                                                                    580 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    666 mL
   Blood products:
   Total out:
                                                                  3,095 mL
                                                                  1,010 mL
   Urine:
                                                                  3,095 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,800 mL
                                                                   -610 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   LSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   [**12-11**] way up B, Diminished: Bases)
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   421 K/uL
   113 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.3 mEq/L
   42 mg/dL
   99 mEq/L
   130 mEq/L
   28.6 %
   10.3 K/uL
        [image002.jpg]
                             [**2105-1-29**]  01:52 AM
                             [**2105-1-29**]  05:55 AM
                             [**2105-1-29**]  06:25 AM
                             [**2105-1-29**]  06:36 AM
                             [**2105-1-29**]  10:20 AM
                             [**2105-1-29**]  05:25 PM
                             [**2105-1-29**]  05:48 PM
                             [**2105-1-30**]  04:41 AM
                             [**2105-1-30**]  04:52 PM
                             [**2105-1-31**]  03:03 AM
   WBC
   8.1
   10.0
   9.1
   10.3
   Hct
   29.0
   29.3
   28.8
   28.6
   Plt
   399
   443
   464
   421
   Cr
   0.9
   1.0
   0.6
   0.9
   1.2
   TropT
   <0.01
   TCO2
   22
   23
   22
   23
   22
   Glucose
   63
   59
   52
   131
   113
   Other labs: PT / PTT / INR:22.1/33.4/2.1, CK / CKMB /
   Troponin-T:108/4/<0.01, ALT / AST:275/631, Alk Phos / T Bili:944/22.6,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:896 IU/L, Ca++:7.7
   mg/dL, Mg++:2.8 mg/dL, PO4:4.8 mg/dL
   Imaging: No recent films
   Microbiology: BC's neg, Sputum yesterday 2+ GNR's
   Assessment and Plan
 HYPOGLYCEMIA
   resolved on full diet, finger sticks q 4
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   resolved, comfortable on nasal cannula, intermittent pulm edema seems
   to be assoc with hypertension, r/o d for MI, start on betablocker and
   reassess
 HYPOTENSION (NOT SHOCK)
   resolved
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
   no current RX , seen by oncology w/u pending family meeting
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   improving, fluid restricted
 HYPOTHYROIDISM
   on meds
 DIABETES MELLITUS (DM), TYPE II
   holdiing insulin with hypoglycemic events
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   resolved
   > ARF- resoving, secondary to initial hypotension
   >Coagulopathy - worsening with extensive liver disease
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Hold insulin given hypoglycemic episodes
   Lines:
   16 Gauge - [**2105-1-28**] 09:31 PM
   18 Gauge - [**2105-1-28**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2105-02-01 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 started on lopressor yest AM (to avoid further HTN  precipitating
   pulmonary edema)
  nonetheless had repeat episode of
 CHEST PAIN - At [**2105-1-31**] 07:15
   PM with associated SOB, JVD. Confirmed pulmonary edema with CXR.
   Treated effectively with LMNO
 EKG - At [**2105-1-31**] 07:16 PM showed ? ST elevation in ateroseptal
   leads, cardiology consulted, recommend baby ASA, BB, and will see in AM
 worsening renal failure with creatinine continued to rise to 2.1,
   urine lytes showed FeUrea = 28%, more indicative of pre-renal etiology
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-29**] 08:30 PM
   Levofloxacin - [**2105-1-30**] 08:14 AM
   Metronidazole - [**2105-1-30**] 04:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2105-1-31**] 06:15 PM
   Heparin Sodium (Prophylaxis) - [**2105-2-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-2-1**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 74 (74 - 118) bpm
   BP: 107/43(59) {91/38(55) - 186/127(133)} mmHg
   RR: 15 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.1 kg (admission): 83.6 kg
   Height: 65 Inch
                  Total In:
                                                                  1,070 mL
                                                                     30 mL
   PO:
                                                                  1,070 mL
                                                                     30 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                    445 mL
   Urine:
                                                                  2,310 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,240 mL
                                                                   -415 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: ill-appearing and jaundiced
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), RRR,
   2/6 SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: No(t) Symmetric), asymmetric expansion
   R > L, decreased BS at L base, fine crackles at R base
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, distended
   and jaundiced but not tense and no rebound.guarding
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   417 K/uL
   9.2 g/dL
   94 mg/dL
   2.4 mg/dL
   20 mEq/L
   4.6 mEq/L
   59 mg/dL
   99 mEq/L
   132 mEq/L
   27.4 %
   12.4 K/uL
        [image002.jpg]
                             [**2105-1-29**]  06:25 AM
                             [**2105-1-29**]  06:36 AM
                             [**2105-1-29**]  10:20 AM
                             [**2105-1-29**]  05:25 PM
                             [**2105-1-29**]  05:48 PM
                             [**2105-1-30**]  04:41 AM
                             [**2105-1-30**]  04:52 PM
                             [**2105-1-31**]  03:03 AM
                             [**2105-1-31**]  07:07 PM
                             [**2105-2-1**]  04:44 AM
   WBC
   8.1
   10.0
   9.1
   10.3
   12.4
   Hct
   29.0
   29.3
   28.8
   28.6
   31.4
   27.4
   Plt
   399
   443
   464
   421
   417
   Cr
   0.9
   1.0
   0.6
   0.9
   1.2
   2.1
   2.4
   TropT
   <0.01
   0.03
   0.03
   TCO2
   22
   23
   22
   Glucose
   63
   59
   52
   131
   113
   186
   94
   Other labs:
   Cardiac Enzymes: (2^nd set)
   CK 167(208)
   CK MB 3 (4)
   TropT 0.03 (0.03)
   PT / PTT / INR:19.8/33.4/1.8
   ALT / AST:[**Telephone/Fax (1) 1119**], Alk Phos / T Bili:848/21.5, Ca++:7.7 mg/dL,
   Mg++:2.9 mg/dL, PO4:5.2 mg/dL
   Lipids:
   TC 256
   HDL 4
   LDL 212
   TG 198
   Imaging: [**2-1**] CXR this AM: PND
   [**1-31**] CXR
   Low lung volumes and associated atelectasis persit as does aright
   pleural
   effusion which may be larger. Suggestion of increased interstitial
   markings
   may represent worsening volume overload. Persistent large amount of air
   in
   stomach.
   Microbiology: [**1-28**] BCx: NGTD
   [**1-29**] Ucx: (final) negative
   [**1-29**] sputum: (prelim) sparse OP flora
   Assessment and Plan
   83yo gentleman with presumed hepatocellular carcinoma with possible
   second malignancy admitted for mental status change in setting of
   hypoglycemia, ICU course complicated by episodes of proabable flash
   pulmonary edema.
 Pulmonary Edema
 recurred again yesterday, unclear precipitant (HTN
   vs. ACS)
   -          Goal to improve control of SBP to <140, will increase beta
   blocker today to 50mg tid
   -          Will add afterload reduction with hydralazine (can
t give
   ACE-I due to ARF) if increasing BB is not effective
   -          Can treat any episodes acutely with 0.5
  nitro paste,
   oxygen; morphine, avoid lasix given ARf from likely dry intravascular
   state
 Possible ACS
   -          EKG with lead placement issues but can not rule out
   anteroseptal ST elevations
   -          Started medical management with ASA 81, beta blocker
   -          Sent lipids this AM, elevated but difficult to interpret
   given sever hepatic dysfunction, would be cautious with statin
   -          Not a candidate for an intervention or heparin gtt given
   known GIB and h/o recent melena at home
   -          trend cardiac enzymes, flat thus far, 3^rd set today
   -          serial EKGs
   -          echo on Monday
 HYPOGLYCEMIA / DIABETES
   Patient was on secretogogue at home in setting of impaired hepatic
   clearance as well as possibly compromised hepatic gluconeogenesis
   secondary to metastatic disease.  He has become hypoglycemic during
   admission despite not getting any insulin, however has also become
   hyperglycemic without insulin
   -          regular ISS, monitor glucose Q4H, give D50 prn
   -          f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] recs
 HYPERTENSION -
   -          was as high as 180s last night, again possibly precipitating
   decreased LV compliance and pulmonary edema
   -          flow limiting CAD may be contributing to poor LV compliance
   -          increase metoprolol to 50mg TID as above, would add
   hydralazine next if not effective
 ARF
 Cr bumped to 2.4 today, was 0.6 on admission
   -          most likely cause is prerenal failure given FeUrea of 28%
   yesterday
   -          will formally exclude post-renal failure with a renal
   ultrasound
   -          could also have component of ATN from peri-intubation
   hypotension
   -          review meds for any intrinsic nephrotoxins, I do not see
   any. Send urine Eo
s for AIN.
   -          transfuse 1 unit pRBCs over 4 hours to allow for improved
   intravascular volume and possible amelioration of coronary ischemia as
   well
   -          renally dose all meds, caution with insulin
   -          start sevelamer tid with meals for phos binding
   -          avoid nephrotoxins
 Transaminitis
 worsening, although with baseline severe hepatic
   dysfunction on presentation
   -          could be from poor intravascular volume causing relative
   poor hepatic perfusion, shock liver
   -          could also represent enzyme release from elsewhere in body
   (i.e. myocardium)
   -           trend LFTs
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)- HCC vs metastatic
   colorectal cancer vs. 2 primaries
   -          Had long discussion with son and pt re: poor prognosis and
   recommendation to maximize quality of remaining time, mentiononed that
   given current comorbidities he can not receive chemotherapy
   -          Pall care consult to help discuss home hospice options, DNR
   status
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY) Stable. Patient most likely
   has appropriately increased ADH in setting of cirrhosis.
   -          fluid restrict to 1500ml free water
 HYPOTHYROIDISM
   -          continue levothyroxine, no sense in checking TFTs after new
   diagnosis
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   -          Hct has been stable, monitor HCT daily unless clinically
   bleeding
   # Coagulopathy - improved today
   -          likely secondary to liver metastases and poor synthetic
   function, indicating very advanced disease, but could be a nutritional
   component
   -          continue 3 day course  of vitamin K (last day today [**2-1**])
   -          trend daily coags
   # Portal Vein Thrombosis
   -          Chronic, monitor
   ICU Care
   Nutrition:
   Comments: HH diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2105-1-28**] 09:31 PM
   18 Gauge - [**2105-1-28**] 11:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
 contact family again today to reclarify
   gravity of prognosis, will call palliative care consult for assistance
   Disposition: ICU

2105-02-01 10:23:00 Physician Attending Progress Note
Chief Complaint: Extensive liver mets, concern about Colon CA
   HPI:
   Started on Lopressor in AM, had pulm edema in evening with
   hypertension, crackles, CXR - Pulm edema - responded. Seriial EKG - ?
   ST elevation, enzymes - pending, cards xpressed concern about ACS.
   Renal Failure worsening
   24 Hour Events:
 CHEST PAIN - At [**2105-1-31**] 07:15 PM
 EKG - At [**2105-1-31**] 07:16 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-1-29**] 08:30 PM
   Levofloxacin - [**2105-1-30**] 08:14 AM
   Metronidazole - [**2105-1-30**] 04:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2105-1-31**] 06:15 PM
   Heparin Sodium (Prophylaxis) - [**2105-2-1**] 08:00 AM
   Pantoprazole (Protonix) - [**2105-2-1**] 08:10 AM
   Other medications:
   synthroid, vit K, RISS, metoprolol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-2-1**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 74 (74 - 118) bpm
   BP: 121/41(60) {97/38(56) - 186/127(133)} mmHg
   RR: 16 (15 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.1 kg (admission): 83.6 kg
   Height: 65 Inch
                  Total In:
                                                                  1,070 mL
                                                                    390 mL
   PO:
                                                                  1,070 mL
                                                                    390 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                    525 mL
   Urine:
                                                                  2,310 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,240 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : L
   Base), (Breath Sounds: Crackles : R Base, Diminished: L Base)
   Abdominal: Soft, Distended, Tender:
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   417 K/uL
   94 mg/dL
   2.4 mg/dL
   20 mEq/L
   4.6 mEq/L
   59 mg/dL
   99 mEq/L
   132 mEq/L
   27.4 %
   12.4 K/uL
        [image002.jpg]
                             [**2105-1-29**]  06:25 AM
                             [**2105-1-29**]  06:36 AM
                             [**2105-1-29**]  10:20 AM
                             [**2105-1-29**]  05:25 PM
                             [**2105-1-29**]  05:48 PM
                             [**2105-1-30**]  04:41 AM
                             [**2105-1-30**]  04:52 PM
                             [**2105-1-31**]  03:03 AM
                             [**2105-1-31**]  07:07 PM
                             [**2105-2-1**]  04:44 AM
   WBC
   8.1
   10.0
   9.1
   10.3
   12.4
   Hct
   29.0
   29.3
   28.8
   28.6
   31.4
   27.4
   Plt
   399
   443
   464
   421
   417
   Cr
   0.9
   1.0
   0.6
   0.9
   1.2
   2.1
   2.4
   TropT
   <0.01
   0.03
   0.03
   TCO2
   22
   23
   22
   Glucose
   63
   59
   52
   131
   113
   186
   94
   Other labs: PT / PTT / INR:19.8/43.5/1.8, CK / CKMB /
   Troponin-T:167/3/0.03, ALT / AST:[**Telephone/Fax (1) 1119**], Alk Phos / T Bili:848/21.5,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:982 IU/L, Ca++:7.7
   mg/dL, Mg++:2.9 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
   Glucose stable, finger sticks q 4
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Recurrent Pulmonary Edema, now resolved with RX of CHF
 HYPOTENSION (NOT SHOCK)
   Intermittent hypertension, tx'd with Beta blockers and hydralazine if
   needed
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
   Not Rx at present, onc following
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   Stable on current fluid management
 HYPOTHYROIDISM
   On synthroid
 DIABETES MELLITUS (DM), TYPE II
   RISS
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Hct trending down - will transfuse 1 unit
   > Renal Failure
   Worsening, needs renal ultrasound, ? paraneoplastic syndrome, examine
   sediment to look for casts
   Sevelamir for hyperphosphatemia
   >? ACS - options limited given extent of neoplasm not interventional
   candidate, ECHO tomorrow, on ASA, no anti-coag
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2105-1-28**] 09:31 PM
   18 Gauge - [**2105-1-28**] 11:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2105-02-02 07:05:00 Physician Resident Progress Note
Chief Complaint: Altered Mental Status
   24 Hour Events:
   - Increased Bblocker with resolution of ST elevation in V2
   - transfused 1 unit pRBCS with appropriate bump
   - family meeting scheduled for 4pm today to discuss code status and
   goals of care
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2105-1-30**] 08:14 AM
   Metronidazole - [**2105-1-30**] 04:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-2-1**] 08:10 AM
   Heparin Sodium (Prophylaxis) - [**2105-2-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-2-2**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 65 (59 - 89) bpm
   BP: 110/37(55) {94/37(45) - 132/79(69)} mmHg
   RR: 19 (14 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.1 kg (admission): 83.6 kg
   Height: 65 Inch
                  Total In:
                                                                  1,445 mL
                  PO:
                                                                  1,070 mL
                  TF:
   IVF:
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,120 mL
                                                                    178 mL
   Urine:
                                                                  1,120 mL
                                                                    178 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                   -178 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   General: Elderly male, extremely  jaundiced
   Skin: Jaundiced. No rashes, petechiae, spider angiomata.
   HEENT: NC/AT. + Scleral icterus.
   CV: RRR, normal S1, S2; no murmurs, gallops, or rubs.
   Pulm: CTAB without any wheezes or crackles.
   Abd: Soft, markedly distended, fluid wave present. Palpable epigastric
   midline mass. Liver 3-4 cm below right costal margin (+hepatomegaly).
   Diffusely tender.
   Rectal: Guaiac + stools in the ED.
   Extr: No clubbing, cyanosis, or edema; DP and radial pulses 2+
   bilaterally.
   Labs / Radiology
   396 K/uL
   10.5 g/dL
   76 mg/dL
   3.4 mg/dL
   22 mEq/L
   4.7 mEq/L
   73 mg/dL
   100 mEq/L
   135 mEq/L
   31.2 %
   14.5 K/uL
        [image002.jpg]
                             [**2105-1-29**]  05:25 PM
                             [**2105-1-29**]  05:48 PM
                             [**2105-1-30**]  04:41 AM
                             [**2105-1-30**]  04:52 PM
                             [**2105-1-31**]  03:03 AM
                             [**2105-1-31**]  07:07 PM
                             [**2105-2-1**]  04:44 AM
                             [**2105-2-1**]  11:01 AM
                             [**2105-2-1**]  05:30 PM
                             [**2105-2-2**]  04:00 AM
   WBC
   10.0
   9.1
   10.3
   12.4
   14.6
   14.5
   Hct
   29.3
   28.8
   28.6
   31.4
   27.4
   31.3
   31.2
   Plt
   [**Telephone/Fax (3) 1142**]
   Cr
   1.0
   0.6
   0.9
   1.2
   2.1
   2.4
   2.7
   3.4
   TropT
   0.03
   0.03
   0.02
   0.02
   0.02
   TCO2
   22
   Glucose
   59
   52
   131
   113
   186
   94
   234
   76
   Other labs: PT / PTT / INR:17.6/42.4/1.6, CK / CKMB /
   Troponin-T:130/3/0.02, ALT / AST:396/806, Alk Phos / T Bili:825/24.0,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:887 IU/L, Ca++:7.9
   mg/dL, Mg++:3.2 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   A/P: 83-year-old gentleman with a h/o microfollicular thyroid adenoma
   and recent diagnosis of hepatocellular/colon cancer who presented to
   the ED with mental status changes and increasing confusion, found to be
   obtunded in the setting of severe hypoglycemia (FSBG 20) and briefly
   intubated for respiratory failure c/b hypotension on levophed. Has had
   multiple episodes of flash pulmonary edema since coming to the unit,
   last [**1-31**].
   .
   # Pulmonary edema - last episode [**1-31**], unclear precipitant (HTN v ACS)
   - goal to improve control of SBP to <140, BBlock increased to 50mg tid
   with good effect
   - can add hydralazine for afterload reduction if BBlocker ineffective
   - if acute episode, can treat with .5" nitropaste, oxygen, morphine:
   have avoided lasix [**1-10**] ARF and likely intravascular depletion
   .
   # Possible ACS - anteroseptal ST elevations, enzymes flat
   - medical management with ASA,BBlocker
   - not a candidate for an intervention or heparin gtt given known GIB
   and h/o recent melena at home
   - continue to trend CE's x2, have been flat so far
   - ECHO today
   .
   # Metastatic hepatocellular/colon cancer
   - tumor markers were revealing for a very elevated AFP, CEA within
   normal limits, and slightly elevated CA-19-9. Hepatitis serologies were
   revealing for negative for HBsAg, negative HBsAb, positive HBcAb, and
   negative HCV Ab. An ultrasound guided liver biopsy was done and initial
   cytology results were positive for malignanct cells consistent with a
   poorly-differentiated carcinoma. Oncology was consulted and believed
   that considering the multiple liver lesions, suspicious lymph nodes,
   poor liver function, and extremely elevated AFP this was most
   consistent with a hepatoma, and stated that it is
   not likely to be resectable based on the pattern of spread, its
   stage and disease at this stage is not amenable to liver
   transplant.  Patient underwent ultrasound-guided liver biopsy to
   confirm this diagnosis.
   .
   # Hypoglycemia - labile.  Pt was on secretogogue at home in setting of
   impaired hepatic clearance as well as possible compromise of hepatic
   gluconeogenesis [**1-10**] metastatic disease.  He has become hypoglycemic
   during admission despite not getting an insulin, however, has [**Last Name (un) 1167**]
   become hyperglycemic without insulin
   - continue SSI, with frequent fingersticks
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] rec's
   .
   # Hypertension - initially hypotensive, now hypertensive.  was as high
   as 180s, could be precipitating [**Month (only) 38**] LV compliance and pulmonary edema.
   flow-limiting CAD nay be contributing to poor LV compliance
   - metoprolol increased with good effect, could consider adding
   hydralazine for afterload reduction
   .
   ARF - Cr continues to rise daily, was .6 on admission. most likely
   pre-renal with FeUrea of 28%. hepatorenal syndrome in differential as
   well.
   - renal US today to r/o post-renal etiology
   - could also have a component of ATN from peri-intubation hypotension
   - send urine eos's for ain
   - renal dose all meds
   - cont phos binder with meals
   - avoid nephrotoxins
   .
   # Transaminitis - improving, severe hepatic dysfunction at baseline
   - will continue to trend
   .
   # Guaiac positive stools/h/o melena
   - was scheduled for outpatient colonoscopy
   - stable, will continue to monitor HCT
   .
   # Hypothyroidism/Microfollicular thyroid adenoma s/p resection [**3-/2097**]
   - very hypothyroid clinical presentation on recent admission
   - continue levothyroxine
   .
   # Hyponatremia - resolved
   .
   # Portal vein thrombosis
   - most likely no indication for AC given setting of malignancy
   - chronic, will monitor
   ICU Care
   Nutrition:
   HH diet
   Glycemic Control:  SSI
   Lines:
   18 Gauge - [**2105-1-28**] 11:00 PM
   Prophylaxis:
   DVT: Boots, SC UF heaprin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 1061**] [**Name (NI) 1094**], [**First Name3 (LF) **], [**Telephone/Fax (1) 1168**] (cell),
   [**Telephone/Fax (1) 1062**] (home)
   Code status: Full code, family meeting today 4pm to discuss code status
   and goals of care
   Disposition: ICU

2105-02-02 11:59:00 Physician Attending Progress Note
Chief Complaint: liver mets with concern for colon ca
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo M with recently dx'd hepastic mass adeno by bx of unclear
   [**Name2 (NI) 1149**], complicated ICU course with altered MS, hypoglycemia,
   intubated for mental staus and airway control and ? flash PE extubated
   [**1-29**]
   24 Hour Events:
   BB dose increased for elevated SBP and st levations in setting of flash
   pulm edema
   transfused 1 unit prbcs
   family mtg scheduled for today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2105-1-30**] 04:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-2-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-2-2**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.2
C (95.3
   HR: 68 (59 - 75) bpm
   BP: 113/38(55) {94/33(45) - 132/79(69)} mmHg
   RR: 18 (14 - 28) insp/min
   SpO2: 97% NC 4 L
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.1 kg (admission): 83.6 kg
   Height: 65 Inch
                  Total In:
                                                                  1,445 mL
                                                                    240 mL
   PO:
                                                                  1,070 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,120 mL
                                                                    253 mL
   Urine:
                                                                  1,120 mL
                                                                    253 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Jaundiced M, wd, NAD
   Scleral icterus, PEERLA
   Without JVD
   Coarse BS, symmetric chest excursion
   S1 S2, witout rub, soft systolic murmur
   Tender at RUQ with deep palpation, soft, mildly distended, + BS. No R/G
   + edema
   Peripheral Vascular: (Right radial pulse:present), (Left radial
   pulse:present), (Right DP pulse:present), (Left DP pulse:present)
   Skin:  Not assessed
   Neurologic: Responds to: commands, alert, language barrier
   Labs / Radiology
   10.5 g/dL
   396 K/uL
   76 mg/dL
   3.4 mg/dL
   22 mEq/L
   4.7 mEq/L
   73 mg/dL
   100 mEq/L
   135 mEq/L
   31.2 %
   14.5 K/uL
        [image002.jpg]
                             [**2105-1-29**]  05:25 PM
                             [**2105-1-29**]  05:48 PM
                             [**2105-1-30**]  04:41 AM
                             [**2105-1-30**]  04:52 PM
                             [**2105-1-31**]  03:03 AM
                             [**2105-1-31**]  07:07 PM
                             [**2105-2-1**]  04:44 AM
                             [**2105-2-1**]  11:01 AM
                             [**2105-2-1**]  05:30 PM
                             [**2105-2-2**]  04:00 AM
   WBC
   10.0
   9.1
   10.3
   12.4
   14.6
   14.5
   Hct
   29.3
   28.8
   28.6
   31.4
   27.4
   31.3
   31.2
   Plt
   [**Telephone/Fax (3) 1142**]
   Cr
   1.0
   0.6
   0.9
   1.2
   2.1
   2.4
   2.7
   3.4
   TropT
   0.03
   0.03
   0.02
   0.02
   0.02
   TCO2
   22
   Glucose
   59
   52
   131
   113
   186
   94
   234
   76
   Other labs: PT / PTT / INR:17.6/42.4/1.6, CK / CKMB /
   Troponin-T:130/3/0.02, ALT / AST:396/806, Alk Phos / T Bili:825/24.0,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:887 IU/L, Ca++:7.9
   mg/dL, Mg++:3.2 mg/dL, PO4:5.5 mg/dL
   Imaging: no new imaging
   Assessment and Plan:  83 yo Spanish speaking M with presumed
   hepatocellular ca and additional malignancy with liver mets, resolving
   shock liver, worsening ARF, recurrent episodes of flash pulm edema with
   ST changes
   # Flash pulmonary edema
increasing BB gently, holding on diuresis, add
   nitro/hydral  if recurs
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY
   ISCHEMIA)
enzymes remain flat, seems related to hypertension and
   improved with increasing BB, continuing on asa and bb, not candidate
   for anticoagulation given high bleeding risk, echo for today
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
renal ultrasound
   today to r/o post-obstructive, worsening cr and oliguric
? HRS verses
   prerenal/atn, check u/a/lytes and monitor
 HYPOGLYCEMIA
stable, SSI, [**Last Name (un) **] following
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
remains stable now on NC
   O2, consider BiPAP in setting of flash edema
 HYPOTENSION (NOT SHOCK)
improved control with increased BB dose,
   consider adding hydral if necessary
 LIVER FUNCTION ABNORMALITIES
transaminitis improving
suspect
   component of shock liver with hypotension/low volume status, remains
   jaundiced with increased t. bili in setting of known liver ca and mets
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
presumed hepatocellular,
   probable adeno ca metastatic to liver, extremely poor prognosis and
   functional status with multiorgan involvement now with worsening renal
   failure, family mtg with palliative care service and oncology,  feel
   that comfort would be in this patients best interest./hospice , at this
   time the patient remains a full code.
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
improving with fluid
   restriction
 HYPOTHYROIDISM--synthroid
 DIABETES MELLITUS (DM), TYPE II--SSI
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
hct stable
   Coagulapathy
vit k, trending coags
   ICU Care
   Nutrition:
   Glycemic Control:  SSI
   Lines:
   18 Gauge - [**2105-2-1**] 10:25 AM
   Prophylaxis:
   DVT:  pneumoboots and sc hep
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
family mtg today with pt
s children to readdress
   goals of care
   Disposition : ICU
   Total time spent:  40 critical care time

2105-02-03 07:39:00 Physician Resident Progress Note
Chief Complaint: Altered Mental Status
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2105-2-2**] 11:15 AM
 EKG - At [**2105-2-3**] 02:00 AM
   - family meeting - no status change
   - TTE - EF 45-50%, basal hypokinesis
   - 250cc bolus
   - desat episode - moving around to get on bed pan, HTNsive to 177,
   acutely SOB, sats dropped from mid 90's to 90%, given neb, sx resolved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-2-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-2-3**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.8
C (96.4
   HR: 65 (58 - 83) bpm
   BP: 116/43(61) {94/36(51) - 177/65(99)} mmHg
   RR: 17 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.1 kg (admission): 83.6 kg
   Height: 65 Inch
                  Total In:
                                                                  1,290 mL
                                                                    100 mL
   PO:
                                                                  1,040 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    743 mL
                                                                    195 mL
   Urine:
                                                                    643 mL
                                                                    195 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    547 mL
                                                                    -95 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Elderly, notably jaundiced
   Eyes / Conjunctiva: PERRL, Scleral icterus
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, +FW, Palpable epigastric mass at midline.
   + HSM liver 3-4cm below costal margin
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): PPT, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   383 K/uL
   10.7 g/dL
   115 mg/dL
   3.3 mg/dL
   22 mEq/L
   4.5 mEq/L
   87 mg/dL
   96 mEq/L
   130 mEq/L
   32.2 %
   14.2 K/uL
        [image002.jpg]
                             [**2105-1-29**]  05:48 PM
                             [**2105-1-30**]  04:41 AM
                             [**2105-1-30**]  04:52 PM
                             [**2105-1-31**]  03:03 AM
                             [**2105-1-31**]  07:07 PM
                             [**2105-2-1**]  04:44 AM
                             [**2105-2-1**]  11:01 AM
                             [**2105-2-1**]  05:30 PM
                             [**2105-2-2**]  04:00 AM
                             [**2105-2-3**]  04:20 AM
   WBC
   10.0
   9.1
   10.3
   12.4
   14.6
   14.5
   14.2
   Hct
   29.3
   28.8
   28.6
   31.4
   27.4
   31.3
   31.2
   32.2
   Plt
   [**Telephone/Fax (2) 1142**]
   383
   Cr
   1.0
   0.6
   0.9
   1.2
   2.1
   2.4
   2.7
   3.4
   3.3
   TropT
   0.03
   0.03
   0.02
   0.02
   0.02
   Glucose
   59
   52
   131
   113
   186
   94
   234
   76
   115
   Other labs: PT / PTT / INR:15.5/36.3/1.4, CK / CKMB /
   Troponin-T:130/3/0.02, ALT / AST:313/521, Alk Phos / T Bili:866/25.7,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:840 IU/L, Ca++:7.6
   mg/dL, Mg++:3.5 mg/dL, PO4:5.3 mg/dL
   Imaging: TTE:  he left atrium is dilated. Left ventricular wall
   thicknesses and cavity size are normal. There is mild regional left
   ventricular systolic dysfunction with mild hypokinesis of the basal
   inferior and inferolateral segments. Tissue Doppler imaging suggests a
   normal left ventricular filling pressure (PCWP<12mmHg). There is no
   ventricular septal defect. Right ventricular chamber size and free wall
   motion are normal. The number of aortic valve leaflets cannot be
   determined. The aortic valve leaflets are mildly thickened. No aortic
   regurgitation is seen. Mild (1+) mitral regurgitation is seen. The
   tricuspid valve leaflets are mildly thickened. The estimated pulmonary
   artery systolic pressure is normal. There is no pericardial effusion.
   IMPRESSION: Mild focal left ventricular dysfunction. Mild mitral
   regurgitation.
   Microbiology:   URINE CULTURE (Final [**2105-2-2**]):    NO GROWTH.
   RESPIRATORY CULTURE (Final [**2105-2-3**]):
         SPARSE GROWTH OROPHARYNGEAL FLORA.
         HAEMOPHILUS INFLUENZAE, BETA-LACTAMASE NEGATIVE.    SPARSE
   GROWTH.
            Beta-lactamse negative: presumptively sensitive to ampicillin.
            Confirmation should be requested in cases of treatment failure
   in
            life-threatening infections..
   Assessment and Plan
   Assessment and Plan
   83 y/o male w/ hx of microfollicular thyroid adenoma and recent
   diagnosis of HCC/colon CA who presented to the ED w/ mental status
   changes and increasing confusion, found to be obtunded in the setting
   of severe hypoglycemia (FSBG 20) and briefly intubated for respiratoyr
   failure c/b hypotension and on levophed.  Has had multiple episodes of
   flash pulmonary edema since coming to the unit, las [**1-31**].
   # Hypoxia
 pt w/ hypoxia today in setting of hypertension of SBP of
   160, similar episode last night.  Likely flash pulmonary edema, w/
   pulmonary edema noted on CXR.
   n        goal to improved control of SBP to < 140, BB of 50mg TID, but
   continued episodes.  Could add hydralazine for afterload reduction as
   continues to have flash pulmonary edema.  But as BP only increases w/
   activity, and otherwise running with SBP will defer at this time.
   n        If acute episode, can treat with .5
 nitropase and oxygen.
   Have avoided lasix [**1-10**] to ARF and likely intravascular depletion.  Gave
   0.5mg morphine today, but possibly worsened mental status.  Will avoid
   if possible given liver dysfunction.
   #  Metastatic hepatocellular/colon CA
 s/p liver bx.  Followed by
   oncology.  Considering multiple liver lesions, suspicous LN, and
   worsening liver fxn, not likely to benefit from treatment.  Family
   meeting today w/ oncology to explore if treatment options a recommended
   pursuit.
   #  Hypoglycemia:  labile.  Pt was on secretogogue at home in setting of
   impared hepatic clearence as well as possible compromise of hepatic
   gluconeogenesis [**1-10**] to metastaic disease.  Has become hyperglycemic
   without insulin.
   n        continue SSI, with frequent fingersticks
   n        f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] recs, had increased breakfast SS yesterday
   #ARF:  Cr up from baseline 0.6 to 3.3, but now stable.  Pre-renal vs.
   hepatorenal in etiology, ATN in setting of hypotension unlikely.  Urine
   lytes show FeNA of 0.7%.  No urine eos yesterday.  Likely
   intravascularly dry in setting of low albumin w/ ESLD.
   -          renally dose all meds
   -          cont phos binder w/ meals
   -          avoid nephrotoxins
   #Confusion:  hepatic encephalopathy vs. uremia vs. narcotics.
   -          avoid sedating medication
   -          lactulose to see if improves
   # Hyponatremia
 now resolved
   #Portal Vein thrombosis
   -          most likely no dindication for AC w/ continued guaic + stool
   in setting of malignancy
   #Hypothyroidism/microfollicular thyroid ademona s/p resection [**3-/2097**]
   n        very hypothyroid clicical presenation on recent admission
   n        continue levothyroxine
   ICU Care
   Nutrition: Regualr diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2105-2-1**] 10:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 1061**] [**Name (NI) 1094**], [**First Name3 (LF) **], HCP, [**Telephone/Fax (1) 1173**] (cell),
   [**Telephone/Fax (1) 1062**] (home)
   Code status: Full code: family meeting yesterday establishing son,
   [**Name (NI) 1061**], as HCP, but no change in code status, new family meeting today
   Disposition:

2105-02-03 13:37:00 Physician Attending Progress Note
Chief Complaint: Hepatic failure, renal failure, pulmonary edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:     83 yo Spanish speaking M with presumed hepatocellular ca and
   additional malignancy with liver mets, resolving shock liver, worsening
   ARF, recurrent episodes of flash pulm edema with ST changes
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2105-2-2**] 11:15 AM: EF 45-50%, basal HK
 EKG - At [**2105-2-3**] 02:00 AM
   Family meeting
   Desat to 90% in setting of hypertension, improved with nitro paste
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-2-3**] 10:00 AM
   Other medications:
   synthroid, ppi, asa, sq heparin, sevelamer
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley, ARF
   Integumentary (skin): Jaundice
   Heme / Lymph: Anemia, Coagulopathy
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2105-2-3**] 01:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 68 (58 - 83) bpm
   BP: 120/50(69) {94/36(51) - 177/65(99)} mmHg
   RR: 18 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 83.6 kg
   Height: 65 Inch
                  Total In:
                                                                  1,290 mL
                                                                    640 mL
   PO:
                                                                  1,040 mL
                                                                    640 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    743 mL
                                                                    435 mL
   Urine:
                                                                    643 mL
                                                                    435 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    547 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal, Absent)
   Peripheral Vascular: (Right radial pulse:present), (Left radial
   pulse:present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : bases)
   Abdominal: Soft, Non-tender, Distended, palpable nodular liver
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   383 K/uL
   115 mg/dL
   3.3 mg/dL
   22 mEq/L
   4.5 mEq/L
   87 mg/dL
   96 mEq/L
   130 mEq/L
   32.2 %
   14.2 K/uL
        [image002.jpg]
                             [**2105-1-29**]  05:48 PM
                             [**2105-1-30**]  04:41 AM
                             [**2105-1-30**]  04:52 PM
                             [**2105-1-31**]  03:03 AM
                             [**2105-1-31**]  07:07 PM
                             [**2105-2-1**]  04:44 AM
                             [**2105-2-1**]  11:01 AM
                             [**2105-2-1**]  05:30 PM
                             [**2105-2-2**]  04:00 AM
                             [**2105-2-3**]  04:20 AM
   WBC
   10.0
   9.1
   10.3
   12.4
   14.6
   14.5
   14.2
   Hct
   29.3
   28.8
   28.6
   31.4
   27.4
   31.3
   31.2
   32.2
   Plt
   [**Telephone/Fax (3) 1142**]
   383
   Cr
   1.0
   0.6
   0.9
   1.2
   2.1
   2.4
   2.7
   3.4
   3.3
   TropT
   0.03
   0.03
   0.02
   0.02
   0.02
   Glucose
   59
   52
   131
   113
   186
   94
   234
   76
   115
   Other labs: PT / PTT / INR:15.5/36.3/1.4, CK / CKMB /
   Troponin-T:130/3/0.02, ALT / AST:313/521, Alk Phos / T Bili:866/25.7,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:840 IU/L, Ca++:7.6
   mg/dL, Mg++:3.5 mg/dL, PO4:5.3 mg/dL
   Imaging: CXR: no signif change in pulmonary edema and bilateral
   effusions
   Microbiology: U culture NG
   Resp culture: sparse H. Flu
   Assessment and Plan
   83 y/o male w/ hx of microfollicular thyroid adenoma and recent
   diagnosis of HCC/colon CA who presented to the ED w/ mental status
   changes and increasing confusion, found to be obtunded in the setting
   of severe hypoglycemia (FSBG 20) and briefly intubated for respiratory
   failure c/b hypotension and on levophed.  Has had multiple episodes of
   flash pulmonary edema since coming to the unit, las [**1-31**].
   # Hypoxia
 pt w/ hypoxia today in setting of hypertension of SBP of
   160, similar episode last night.  Likely flash pulmonary edema, w/
   pulmonary edema noted on CXR.
   n        goal to improved control of SBP to < 140, BB of 50mg TID, but
   continued episodes.  Could add hydralazine for afterload reduction as
   continues to have flash pulmonary edema.
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY
   ISCHEMIA)
enzymes remain flat, seems related to hypertension and
   improved with increasing BB, continuing on asa and bb, not candidate
   for anticoagulation given high bleeding risk
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
worsening cr though
   remains nonoliguric with decent u/o
? HRS verses prerenal/atn,
   transitioning toward hospice care given extensive family meeting
   yesterday.
 HYPOGLYCEMIA
stable, SSI
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
remains stable now on NC
   O2, consider BiPAP in setting of flash edema
 HYPOTENSION (NOT SHOCK)
improved control with increased BB dose,
   consider adding hydral if necessary
 LIVER FUNCTION ABNORMALITIES
transaminitis improving
suspect
   component of shock liver with hypotension/low volume status, remains
   jaundiced with increased t. bili in setting of known liver ca and mets
 CANCER (MALIGNANT NEOPLASM), HEPATIC (LIVER)
presumed hepatocellular,
   probable adeno ca metastatic to liver, extremely poor prognosis and
   functional status with multiorgan involvement now with worsening renal
   failure, family mtg with palliative care service and oncology,  feel
   that comfort would be in this patients best interest./hospice , at this
   time the patient remains a full code pending additonal discussion with
   family who are moving toward hospice care.  Await additional meetings
   today with onc and patients sons arrival to readdress
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
improving with fluid
   restriction
 HYPOTHYROIDISM--synthroid
 DIABETES MELLITUS (DM), TYPE II--SSI
   ICU Care
   Nutrition:
   Comments: Taking PO's with supervision
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2105-2-1**] 10:25 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: not intubated, aspiration precautions
   Comments:
   Communication:  Comments:
   Code status: Full code
will readdress with family once pt
s sons are
   present today regarding transition towards comfort/hospice
   Disposition :ICU
   Total time spent: 60 min
   Patient is critically ill

2105-02-04 07:22:00 Physician Resident Progress Note
Chief Complaint: Altered Mental Status
   24 Hour Events:
 EKG - At [**2105-2-3**] 10:00 AM
   c/o SOB requiring increase in O2 and IV morphine to manage symptoms
 CHEST PAIN - At [**2105-2-3**] 07:20 PM
 EKG - At [**2105-2-3**] 07:25 PM
   - family meeting - pt has been made [**Year (4 digits) 617**], d/c labs & BS checks
   - continues to have episodes of SOB & desaturations after moving to get
   on bed pan, sats recover with increased supplemental O2, nitropaste &
   morphine.
   - tried Lasix 40mg IV with minimal response, having some UOP to 80mg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-2-3**] 08:00 AM
   Morphine Sulfate - [**2105-2-3**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2105-2-3**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema,
   Tachycardia
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2105-2-4**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 68 (59 - 81) bpm
   BP: 104/43(58) {97/35(53) - 158/97(109)} mmHg
   RR: 18 (16 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 83.6 kg
   Height: 65 Inch
                  Total In:
                                                                  1,250 mL
                                                                    200 mL
   PO:
                                                                  1,190 mL
                                                                    200 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    262 mL
   Urine:
                                                                    795 mL
                                                                    262 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    155 mL
                                                                    -62 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   fine crackles at bases b/l, but improved)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: RUQ tenerness
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   383 K/uL
   10.7 g/dL
   115 mg/dL
   3.3 mg/dL
   22 mEq/L
   4.5 mEq/L
   87 mg/dL
   96 mEq/L
   130 mEq/L
   32.2 %
   14.2 K/uL
        [image002.jpg]
                             [**2105-1-29**]  05:48 PM
                             [**2105-1-30**]  04:41 AM
                             [**2105-1-30**]  04:52 PM
                             [**2105-1-31**]  03:03 AM
                             [**2105-1-31**]  07:07 PM
                             [**2105-2-1**]  04:44 AM
                             [**2105-2-1**]  11:01 AM
                             [**2105-2-1**]  05:30 PM
                             [**2105-2-2**]  04:00 AM
                             [**2105-2-3**]  04:20 AM
   WBC
   10.0
   9.1
   10.3
   12.4
   14.6
   14.5
   14.2
   Hct
   29.3
   28.8
   28.6
   31.4
   27.4
   31.3
   31.2
   32.2
   Plt
   [**Telephone/Fax (3) 1142**]
   383
   Cr
   1.0
   0.6
   0.9
   1.2
   2.1
   2.4
   2.7
   3.4
   3.3
   TropT
   0.03
   0.03
   0.02
   0.02
   0.02
   Glucose
   59
   52
   131
   113
   186
   94
   234
   76
   115
   Other labs: PT / PTT / INR:15.5/36.3/1.4, CK / CKMB /
   Troponin-T:130/3/0.02, ALT / AST:313/521, Alk Phos / T Bili:866/25.7,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:840 IU/L, Ca++:7.6
   mg/dL, Mg++:3.5 mg/dL, PO4:5.3 mg/dL
   Imaging: CXR:  FINDINGS:  In comparison with study of [**2-1**], there is no
   significant change.
   Areas of increased opacification are seen bilaterally consistent with
   pleural
   effusion and bibasilar atelectasis.  Mild residual fullness of
   pulmonary
   vessels is consistent with improving pulmonary edema.
   Assessment and Plan
   83 y/o male w/ hx of microfollicular thyroid adenoma and recent
   diagnosis of HCC/colon CA who presented to the ED w/ mental status
   changes and increasing confusion, found to be obtunded in the setting
   of severe hypoglycemia (FSBG 20) and briefly Intubated for respiratory
   failure c/b hypotension requiring pressor support.  Has had multiple
   episodes of flash pulmonary edema since coming to unit [**1-31**].
   #[**Name (NI) 1224**] pt w/ hypoxia in the setting of hypertension, likely flash
   pulmonary edema, c/w w/ CXR
   n        pt given lasix trial last night w/ not significant urine
   output, c/w suspected ARF due to pre-renal poor intravascular volume
   n        now that patient is [**Last Name (LF) 617**], [**First Name3 (LF) 178**] treat SOB w/ nitropaste and
   morphine.  Will require SL morphine rather than IV to d/c to [**Hospital1 169**].
   n        Will continue BB as likely offering symptomatic relief in this
   [**Hospital1 617**] patient.
   #Metastatic HCC/colon CA:  followed by oncology.  Considering poor
   functional status, multiple liver lesions, suspicious LN, worsening
   liver fxn, not candidate for chemotherapy.  Bx worrisome for two
   malignancies.  Patient made [**Hospital1 617**] yesterday after family meeting.
   # Hypoglycemica:  labile blood sugars.  Pt was on secretogogues at home
   in setting of impaired hepatic gluconeogensis.  During hospitalization
   patient had become hyperglycemic, requiring SS.  Was followed by
   [**Last Name (un) 276**], who signed off today.  Have stopped checking FS as patient [**Last Name (un) 617**].
   #ARF:  CR up from baseline of 0.6 to 3.3, now stable.  Pre-renal vs
   hepatorenal in etiology.  ATN in setting of hypotension unlikely. FeNA
   of 0.7% and no urine eos.  Likely intravascularly dry in setting of low
   albumin.
   n        now [**Last Name (un) 617**], no further workup or monitoring.  Have stopped
   checking labs
   #  Confusion:  hepatic encephalopathy vs. uremia vs. narcotics.
   -          patient now [**Last Name (un) 617**].  Will continue PRN morphine for SOB.
   # Portal vein thrombosis:  PT [**Name (NI) 617**], no indication for AC given guaic +
   stool in setting of malignancy.
   #hypothyroidsim s/p thyroid adenoma resection:  [**Name (NI) 617**] patient, have
   stopped synthroid.
   ICU Care
   Nutrition:
   Comments: Regular Diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2105-2-1**] 10:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Comfort measures only:  Established yesterday after family
   meeting.
   Disposition:Will discuss if patient can be called out today.  Will be
   screened for NSG home, as patient's insurance only covers for 2 weeks
   of hospice.

2105-02-04 12:16:00 Physician Attending Progress Note
Chief Complaint: AMS, flash pulmonary edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 y/o male w/ hx of microfollicular thyroid adenoma and recent
   diagnosis of HCC/colon CA who presented to the ED w/ mental status
   changes and increasing confusion, found to be obtunded in the setting
   of severe hypoglycemia and briefly intubated for respiratory failure
   c/b hypotension requiring levophed.  Has had multiple episodes of flash
   pulmonary edema and progressive ARF, not candidate for chemotherapy,
   goals of care toward comfort/hospice
   24 Hour Events:
   recurrent episodes of flash pulm edema with desats and chest pain
   responded to nitro, morphine
   lasix given X 1
   ongoing family discussions--now CMO
   History obtained from house staff
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-2-3**] 04:00 PM
   Other medications:
   reviewed--per [**Month (only) **]  nitro,  metoprolol, morphine, nebs
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-2-4**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 66 (59 - 81) bpm
   BP: 96/34(49) {96/34(49) - 149/97(109)} mmHg
   RR: 20 (16 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 83.6 kg
   Height: 65 Inch
                  Total In:
                                                                  1,250 mL
                                                                    320 mL
   PO:
                                                                  1,190 mL
                                                                    320 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    582 mL
   Urine:
                                                                    795 mL
                                                                    582 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    155 mL
                                                                   -262 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   Jaundiced, NAD
   Crackles, symmetric chest wall excursion
   RR
   Mildly distended, NT, + BS
   Edematous
   Peripheral Vascular: (Right radial pulse:present), (Left radial
   pulse:present), (Right DP pulse: Not present), (Left DP pulse: present)
   Skin:  jaundiced
   Neurologic: Responds to verbal stimuli, follows commands
   Labs / Radiology
   10.7 g/dL
   383 K/uL
   115 mg/dL
   3.3 mg/dL
   22 mEq/L
   4.5 mEq/L
   87 mg/dL
   96 mEq/L
   130 mEq/L
   32.2 %
   14.2 K/uL
        [image002.jpg]
                             [**2105-1-29**]  05:48 PM
                             [**2105-1-30**]  04:41 AM
                             [**2105-1-30**]  04:52 PM
                             [**2105-1-31**]  03:03 AM
                             [**2105-1-31**]  07:07 PM
                             [**2105-2-1**]  04:44 AM
                             [**2105-2-1**]  11:01 AM
                             [**2105-2-1**]  05:30 PM
                             [**2105-2-2**]  04:00 AM
                             [**2105-2-3**]  04:20 AM
   WBC
   10.0
   9.1
   10.3
   12.4
   14.6
   14.5
   14.2
   Hct
   29.3
   28.8
   28.6
   31.4
   27.4
   31.3
   31.2
   32.2
   Plt
   [**Telephone/Fax (3) 1142**]
   383
   Cr
   1.0
   0.6
   0.9
   1.2
   2.1
   2.4
   2.7
   3.4
   3.3
   TropT
   0.03
   0.03
   0.02
   0.02
   0.02
   Glucose
   59
   52
   131
   113
   186
   94
   234
   76
   115
   Other labs: PT / PTT / INR:15.5/36.3/1.4, CK / CKMB /
   Troponin-T:130/3/0.02, ALT / AST:313/521, Alk Phos / T Bili:866/25.7,
   Differential-Neuts:90.0 %, Band:2.0 %, Lymph:3.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:840 IU/L, Ca++:7.6
   mg/dL, Mg++:3.5 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   83 y/o male w/ recent diagnosis of HCC/probable metastatic colon CA who
   presented initially with mental status changes and increasing confusion
   in the setting of severe hypoglycemia, course c/b recurrent episodes of
   flash pulmonary edema and ARF, ? atn verses HRS.  Given Family meeting
   yesterday and changed to CMO status with cessation of blood draws.
   Continuing  nitro and beta blocker given distress associated with flash
   edema
   Morphine for pain and morphine, nebs for  hypoxia/sob
   Blood draws d/c
   Goals of comfort with transition to NH for hospice care
   ICU Care
   Nutrition:   PO diet  as tolerated
   Glycemic Control:   discontinued
   Lines:
   18 Gauge - [**2105-2-1**] 10:25 AM
   Prophylaxis:
   DVT:  discontinued
   Stress ulcer:
   VAP:
   Comments:
   Communication:  family
   Code status: Comfort measures only
   Disposition :Transfer to floor
   Total time spent: 35 minutes